US08314131B2
Step 4: 3-(1-(2-Chlorophenyl)-1H-benzo[d][1,2,3]triazol-5-yl)-N-cyclopropyl-5-fluoro-4-methylbenzamide
To a mixture of N-cyclopropyl-3-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (100 mg, 0.31 mmol), 5-bromo-1-(2-chlorophenyl)-1H-benzo[d][1,2,3]triazole (110 mg, 0.34 mmol), tetrakis(triphenylphosphine)palladium(0) (18 mg, 0.016 mmol) in dioxane (3 mL) was added 1.3 mL of 2 N sodium carbonate solution. The reaction mixture was heated at 125° C. in a microwave for 30 min. The mixture was then treated with 2 mL of 1 N NaOH and extracted with 2×15 mL of EtOAc. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting crude material was purified by flash chromatography on silical gel (30-70% of EtOAc in Hexanes) to give the title compound as an off white crystalline solid. MS (ESI, pos. ion) m/z: 421.0 (M+1).

reactant | N-cyclopropyl-3-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.31 mmol, 100 mg | C1(CC1)NC(C1=CC(=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C)F)=O | C17H23BFNO3
reactant | 5-bromo-1-(2-chlorophenyl)-1H-benzo[d][1,2,3]triazole | 0.34 mmol, 110 mg | BrC1=CC2=C(N(N=N2)C2=C(C=CC=C2)Cl)C=C1 | C12H7BrClN3
reactant | sodium carbonate | 2 N, 1.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-(2-Chlorophenyl)-1H-benzo[d][1,2,3]triazol-5-yl)-N-cyclopropyl-5-fluoro-4-methylbenzamide | ClC1=C(C=CC=C1)N1N=NC2=C1C=CC(=C2)C=2C=C(C(=O)NC1CC1)C=C(C2C)F | C23H18ClFN4O
